US05091528
5,7-Dipropyl-6-nitro-3-oxo-3,4-dihydro-(2H)-1,4-benzoxazine.
The title compound is synthesized from either 5-propyl-6-nitro-3-oxo-3,4-dihydro-(2H)-1,4-benzoxazine or 7-propyl-6-nitro-3-oxo-3,4-dihydro-(2H)-1,4-benzoxazine and propyl magnesium bromide using the method illustrated in Example 37.

reactant | 5-propyl-6-nitro-3-oxo-3,4-dihydro-(2H)-1,4-benzoxazine | C(CC)C1=C(C=CC2=C1NC(CO2)=O)[N+](=O)[O-] | C11H12N2O4
reactant | 7-propyl-6-nitro-3-oxo-3,4-dihydro-(2H)-1,4-benzoxazine | C(CC)C1=CC2=C(NC(CO2)=O)C=C1[N+](=O)[O-] | C11H12N2O4
reactant | propyl magnesium bromide | C(CC)[Mg]Br
product | 5,7-Dipropyl-6-nitro-3-oxo-3,4-dihydro-(2H)-1,4-benzoxazine | C(CC)C1=C(C(=CC2=C1NC(CO2)=O)CCC)[N+](=O)[O-] | C14H18N2O4
